US06057304
180 mg of 1-(6-amino-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-1-yl)methanephosphonic acid is added dropwise to 10 ml of 25% strength sulfuric acid. After 5 minutes of agitation, a suspension of the salt is formed w which is cooled to 0° C. To this is added a solution of 60 mg of sodium nitrite in 2 ml of water. After 15 minutes of stirring at 0° C., the reaction mixture is almost dissolved. To this is added a solution of 180 mg of potassium iodide in 2 ml of water. The ice bath is removed and the mixture heated to 100° C. for 2 hours. The cooled-off reaction mixture is neutralized with concentrated ammonia solution and evaporated to dryness. The residue is extracted by boiling with ethanol and a small amount of water, filtered, and the filtrate is concentrated. After chromatography over silanized silica gel with water : methanol=4:1, 40 mg of 1-(6-Iodo-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-1-yl)methanephosphonic acid is obtained, mp: 295-297° C.

reactant | 1-(6-amino-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-1-yl)methanephosphonic acid | 180 mg | NC=1C=C2NC(C(N(C2=CC1)CP(O)(=O)O)=O)=O | C9H10N3O5P
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 60 mg | N(=O)[O-].[Na+]
reactant | potassium iodide | 180 mg | [I-].[K+]
reactant | ammonia | N | H3N
solvent | water | 2 ml | O | H2O
solvent | water | 2 ml | O | H2O
product | 1-(6-Iodo-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-1-yl)methanephosphonic acid | 40 mg | IC=1C=C2NC(C(N(C2=CC1)CP(O)(=O)O)=O)=O | C9H8IN2O5P
